US06933311B2
2,2,2-trichloro-N-(7-methyl-1H-indazol-4-yl)acetamide
7-Methyl-1H-indazol-4-amine (J. Chem. Soc. 1955, 2412; 550 mg, 3.74 mmol) and triethylamine (1.6 mL, 11.5 mmol) were combined in CH2Cl2 (22 mL) and treated with trichloroacetyl chloride (0.54 mL, 4.84 mmol) dropwise at 0° C. The mixture was allowed to gradually warm to ambient temperature and stir overnight. The mixture was concentrated and the residue was purified by flash chromatography (98:2, CH2C12:CH3OH), to provide the title compound.

reactant | 7-Methyl-1H-indazol-4-amine | 3.74 mmol, 550 mg | CC1=CC=C(C=2C=NNC12)N | C8H9N3
reactant | triethylamine | 11.5 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
reactant | trichloroacetyl chloride | 4.84 mmol, 0.54 mL | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | CH2Cl2 | 22 mL | C(Cl)Cl | CH2Cl2
product | 2,2,2-trichloro-N-(7-methyl-1H-indazol-4-yl)acetamide | ClC(C(=O)NC1=C2C=NNC2=C(C=C1)C)(Cl)Cl | C10H8Cl3N3O
